US04316907
(c) 5-[2-[(1-Methyl-3-phenylpropyl)imino]-1-oxopropyl]thiophene-3-carboxamide
A solution of 1-methyl-3-phenylpropylamine (9.0 g) and 5-(2-bromo-1-oxopropyl)thiophene-3-carboxamide (7.6 g) was stirred for 2 h; butanone (75 ml) was added and stirring continued for 48 h. The resulting mixture was filtered and the filtrate evaporated to small volume (ca. 30 ml) and added to vigorously stirred light petroleum (b.p. 60°-80°: 500 ml) to precipitate a yellow gum (ca. 9 g) which was separated on a short path silica (7736H; 300 g) column eluted with ethyl acetate/2% isopropanol/20% triethylamine to give three products. TLC SiO2 (EtOAc/20% i-PrOH/2% Et3N) Rf 0.26, 0.39 and 0.5 respectively.

reactant | 1-methyl-3-phenylpropylamine | 9.0 g | CC(CCC1=CC=CC=C1)N | C10H15N
reactant | 5-(2-bromo-1-oxopropyl)thiophene-3-carboxamide | 7.6 g | BrC(C(=O)C1=CC(=CS1)C(=O)N)C | C8H8BrNO2S
reactant | butanone | 75 ml | CC(CC)=O | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-[2-[(1-Methyl-3-phenylpropyl)imino]-1-oxopropyl]thiophene-3-carboxamide | CC(CCC1=CC=CC=C1)N=C(C(=O)C1=CC(=CS1)C(=O)N)C | C18H20N2O2S
